US08039463B2
A solution of 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-propionic acid tert-butyl ester (400 mg, 0.97 mmol) in dioxane.HCl (4 mL) was stirred at 0° C. for 30 minutes. The reaction mixture was concentrated to afford 300 mg of 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-propionic acid. LCMS: 356.02 (M+1)+, 96.9%, H1NMR: (DMSO-d6): δ 12.6 (s, 1H), 7.7 (d, 1H), 7.54-7.32 (m, 3H), 3.7-3.4 (m, 8H), 3.2-3.06 (m, 2H).

reactant | 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-propionic acid tert-butyl ester | 0.97 mmol, 400 mg | C(C)(C)(C)OC(CC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)Br)=O)=O | C18H23BrN2O4
reactant | HCl | 4 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-propionic acid | 300 mg | BrC1=C(C(=O)N2CCN(CC2)C(CC(=O)O)=O)C=CC=C1 | C14H15BrN2O4
